US05859014
A mixture of thymine (7.68 g, 61 mmol), benzyl bromide (10.55 g, 61 mmol), potassium carbonate (17.05 g, 123 mmol) and DMF (90 mL) was stirred 12 hours at 25° C. The reaction mixture was poured into water (500 mL) and extracted with ethyl acetate (3×200 mL). The combined extract was washed with water (5×100 mL), dried (Na2SO4) and concentrated in vacuo. The residue was crystallized from hexane/ethyl acetate to give 1-benzyl-5-methyl-2,4(1H,3H)-pyrimidinedione (9.4 g, 43.9 mmol), m.p. 170°-173° C.

reactant | thymine | 61 mmol, 7.68 g | N1C(=O)NC(=O)C(C)=C1 | C5H6N2O2
reactant | benzyl bromide | 61 mmol, 10.55 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 123 mmol, 17.05 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 90 mL | CN(C)C=O | C3H7NO
solvent | water | 500 mL | O | H2O
product | 1-benzyl-5-methyl-2,4(1H,3H)-pyrimidinedione | 43.9 mmol, 9.4 g | C(C1=CC=CC=C1)N1C(NC(C(=C1)C)=O)=O | C12H12N2O2
